US07105707B2
The procedure was identical to Example 2, with the exception that 1-octyne (0.590 ml; 0.441 g; 4.00 mmol) was used as a substrate instead of phenylacetylene and 4-cyanopyridine (0.208 g; 2.00 mmol) was used as a substrate instead of benzonitrile. GC analysis of the organic phase of the hydrolyzed reaction sample after 21 h at room temperature showed the presence of 1.60 mmol (80% yield) of 4-(1-octynyl)pyridine and no remaining 4-cyanopyridine in the reaction mixture.

reactant | 1-octyne | 4.00 mmol, 0.590 ml, 0.441 g | C#CCCCCCC | C8H14
reactant | phenylacetylene | C1(=CC=CC=C1)C#C | C8H6
reactant | 4-cyanopyridine | 2.00 mmol, 0.208 g | C(#N)C1=CC=NC=C1 | C6H4N2
solvent | benzonitrile | C(C1=CC=CC=C1)#N | C7H5N
product | 4-(1-octynyl)pyridine | 1.60 mmol, 80% yield | C(#CCCCCCC)C1=CC=NC=C1 | C13H17N
